US07973051B2
ii) 4-Ethyl-5-trimethylsilanylethynyl-thiazol-2-ylamine
Under a stream of Ar the above prepared 4-ethyl-5-iodo-thiazol-2-ylamine (1.67 g, 6.57 mmol) was dissolved in 40 mL of acetonitrile and treated successively with triethylamine (2.73 mL, 3 eq.), Cul (0.125 g, 0.1 eq.), (Ph3P)2PdCl2 (0.46 g, 0.1 eq.) and ethynyltrimethylsilane (2.73 mL, 3 eq.). The flask was closed with a septum and allowed to stir for 15 h at ambient temperature. The reaction mixture was then poured onto icewater/NH4Cl, twofold extracted with ethyl acetate, washed with water and brine, dried over sodium sulfate, and evaporated to dryness. Flash chromatography (SiO2, hexane/AcOEt=7/3) afforded finally 0.598 g of the title compound as brown viscous oil, contaminated with some des-iodo-compound.

reactant | 4-ethyl-5-iodo-thiazol-2-ylamine | 6.57 mmol, 1.67 g | C(C)C=1N=C(SC1I)N | C5H7IN2S
reactant | triethylamine | 2.73 mL, 3 eq. | C(C)N(CC)CC | C6H15N
reactant | ethynyltrimethylsilane | 2.73 mL, 3 eq. | C(#C)[Si](C)(C)C | C5H10Si
reactant | NH4Cl | [NH4+].[Cl-]
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
catalyst | (Ph3P)2PdCl2 | 0.46 g, 0.1 eq. | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-Ethyl-5-trimethylsilanylethynyl-thiazol-2-ylamine | 0.598 g | C(C)C=1N=C(SC1C#C[Si](C)(C)C)N | C10H16N2SSi
